US08106070B2
Triethylamine (5.19 mL, 37.2 mmol) followed by di-tert-butyl dicarbonate (5.42 g, 24.8 mmol) were added to an ambient temperature solution of benzyl {2-(4-bromophenyl)-1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}carbamate (6 g, 12.4 mmol) in tetrahydrofuran (200 mL). After stirring at ambient temperature for 5 h, the reaction mixture was quenched with water and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-40% ethyl acetate/hexane afforded tert-butyl 2-[1-{[(benzyloxy)carbonyl]amino}-2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1H-imidazole-1-carboxylate.

reactant | Triethylamine | 37.2 mmol, 5.19 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 24.8 mmol, 5.42 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzyl {2-(4-bromophenyl)-1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}carbamate | 12.4 mmol, 6 g | BrC1=CC=C(C=C1)CC(C=1NC=C(N1)CC(CC)(C)C)NC(OCC1=CC=CC=C1)=O | C25H30BrN3O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-[1-{[(benzyloxy)carbonyl]amino}-2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1H-imidazole-1-carboxylate | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=C(C=C1)Br)C=1N(C=C(N1)CC(CC)(C)C)C(=O)OC(C)(C)C | C30H38BrN3O4
